US04959377
3-(4-Methoxyphenoxy)-4-pyridinamine
To 250 ml ethanol in a 500 ml Parr hydrogenation bottle, were added 3-(4-methoxyphenoxy)-4-nitropyridine-1-oxide (7.9 g) and 0.4 g PtO2. After shaking for two hours at fifty psi of hydrogen, the mixture was filtered and concentrated to 5.8 g of oil.

reactant | 3-(4-methoxyphenoxy)-4-nitropyridine-1-oxide | 7.9 g | COC1=CC=C(OC=2C=[N+](C=CC2[N+](=O)[O-])[O-])C=C1 | C12H10N2O5
reactant | hydrogen | [H][H] | H2
catalyst | PtO2 | 0.4 g | O=[Pt]=O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-(4-Methoxyphenoxy)-4-pyridinamine | COC1=CC=C(OC=2C=NC=CC2N)C=C1 | C12H12N2O2
